US06583157B2
Quinolin-2-yl-acetonitrile (221)
To a suspension of 2-Chloromethyl-quinoline hydrochloride(TCI, 4.28 g, 20 mmol) in 50 mL of EtOH was added a solution of NaHCO3 (EM, 3.36 g, 40 mmol) in 30 mL of H2O. The mixture was stirred for 15 min, then was added KI (Aldrich, 4.5 g, 30 mmol) and KCN (Acros, 1.95 g, 30 mmol) and the resulting mixture was refluxed for 4h. after cooled to room temperature, EtOH was removed under reduced pressure. The residue was extracted 3× with EtOAc (200 mL). The organic layers were combined and washed twice with a brine solution (200 mL), dried over Na2SO4, and concentrated under vacuum. The residue was chromatographed (30% EtOAc/hexanes) to yield 2.76 g (82%) of product.

reactant | 2-Chloromethyl-quinoline hydrochloride | 20 mmol, 4.28 g | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | NaHCO3 | 40 mmol, 3.36 g | C(=O)(O)[O-].[Na+]
reactant | KCN | 30 mmol, 1.95 g | [C-]#N.[K+]
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | H2O | 30 mL | O | H2O
product | Quinolin-2-yl-acetonitrile | 2.76 g, 82% | N1=C(C=CC2=CC=CC=C12)CC#N | C11H8N2
